US06559162B2
tert-Butyl 3-Benzyl-3-azabicyclo[3.2.1]oct-8-yl(methyl)carbamate
A mixture of 3-benzyl-N-methyl-3-azabicyclo[3.2.1]octan-8-amine (Preparation B; 168.1 g, 0.730 mol) and di-tert-butyldicarbonate (159 g, 0.730 mol) in dichloromethane (2.5 L) was stirred overnight at 25° C. under nitrogen. The mixture was concentrated in vacuo to yield 240 g (100%) of the sub-title compound as a white solid, which was used without purification.

reactant | 3-benzyl-N-methyl-3-azabicyclo[3.2.1]octan-8-amine | 0.730 mol, 168.1 g | C(C1=CC=CC=C1)N1CC2CCC(C1)C2NC | C15H22N2
reactant | di-tert-butyldicarbonate | 0.730 mol, 159 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 2.5 L | ClCCl | CH2Cl2
product | tert-Butyl 3-Benzyl-3-azabicyclo[3.2.1]oct-8-yl(methyl)carbamate | 240 g, 100% | C(C1=CC=CC=C1)N1CC2CCC(C1)C2N(C(OC(C)(C)C)=O)C | C20H30N2O2
